datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:21]=[C:20]2[S]C(C)C(CC)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(CC)[S]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)CC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"CC[O+:10]([K])[C:21]([O-:20])(OCCCCCC)OC1=CC=CC=C1>>[O:20]=[C:21](OCCCCCC)OC1=CC=CC=C1.CC[O:10][K] 20=21;21,10=10"
"[H][NH+:21]=[C:20]2[NH]C(C)C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(CC)[NH]1 10=20;20,21=21"
"CCN([C:20]1(OC(C([O:21]1)CCCCCC)CCCCCC)[O-:10])[H]>>CCN([C:20](=[O:10])OC(C([O-:21])CCCCCC)CCCCCC)[H] 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C)C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[Li][O:21]CC.[C:20](=[O:10])(OC)OCC>>[Li][O+:21]([C:20]([O-:10])(OC)OCC)CC 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C)[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([NH]CC)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([NH]CC)[O]C 10=20;20,21=21"
"[NH:10]([H])C(C)/C([H])=C([H])\C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])=C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"C1=CC=CC=C1[O+:10]([Na])[C:21]([O-:20])(OCCCCCC)OCCCCCC>>[O:20]=[C:21](OCCCCCC)OCCCCCC.C1=CC=CC=C1[O:10][Na] 20=21;21,10=10"
"C[O+:10]([H])[C:20]([O:21]C)([S]CC)[O]CC.[Cl-]>>[Cl-].C[O:10][H].C[O+:21]=[C:20]([S]CC)[O]CC 21=20;20,10=10"
"CN([C:20](=[O:10])O[H])[H].[O-:21][H]>>CN([C:20]([O-:10])(O[H])[O:21][H])[H] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][S+:10](C([H])C([H])C(C)[S]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(C)[S][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C([H])C(CC)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(CC)[NH]1 10=20;20,21=21"
"[O:10]([K])C([H])C(C)C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[S][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)CCCCCC)CC>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)CCCCCC)[O-:10])CC 21=20;20,10=10"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][H])[S]C(CC)C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(CC)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)CCCCCC)CC.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CC 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1[H])[H])C.[O-:21]CC>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)[H])C 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C([H])[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C([H])[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1CC)[H])CC.[O-:21][H] 10=20;20,21=21"
"[H][O:10][H].C[O+:21]=[C:20]([S]CC)[S][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21]C)([S]CC)[S][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"C(C(O[C:20](=[O:10])OCCCCCC)C)([O-:21])C>>C1(C([O:21][C:20](O1)([O-:10])OCCCCCC)C)C 21=20;20,10=10"
"[NH:10]([H])C([H])C(O)C(C)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)C(O)C([H])[NH+:10]1([H]) 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
